US09402841B2
Step D: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-8-fluoroisoquinolin-3-yl)-1H-1,2,4-triazol-5 (4H)-one
To a mixture of (S)-3-(8-fluoro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride (250 mg, 0.71 mmol) in DCM (15 mL) was added a solution of 2,6-dimethylpyridine (192 mg, 1.8 mmol) in DCM (1 mL). Acryloyl chloride (135 mg, 1.5 mmol) in DCM (1.35 mL) was added dropwise via syringe at −78° C. The reaction mixture was stirred at −78° C. for 30 minutes. Additional 2,6-dimethylpyridine (32 mg, 0.3 mmol) in DCM (0.32 mL) was added followed by acryloyl chloride (45 mg, 0.50 mmol) in DCM (0.45 mL). The reaction mixture was stirred at −10° C. for 20 minutes. The reaction was quenched with MeOH (1 mL) and the mixture was concentrated under vacuum. The crude product was purified by preparative HPLC to give the title compound as a white solid (40.58 mg, 15.5%). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.91 (s, 1H), 11.78 (s, 1H), 7.69-7.63 (m, 3H), 7.60-7.58 (m, 1H), 6.61-6.55 (m, 2H), 6.18-6.13 (m, 1H), 5.67-5.64 (m, 1H), 5.30-5.10 (m, 1H), 4.17-4.15 (m, 1H), 3.66-3.63 (m, 2H), 3.28-3.25 (m, 1H), 2.25-2.03 (m, 2H); ESI-MS m/z [M+H]+ 369.1.

reactant | (S)-3-(8-fluoro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride | 0.71 mmol, 250 mg | Cl.FC=1C=CC=C2C=C(N=C(C12)N[C@@H]1CNCC1)C1=NNC(N1)=O
reactant | 2,6-dimethylpyridine | 1.8 mmol, 192 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | Acryloyl chloride | 1.5 mmol, 135 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | 2,6-dimethylpyridine | 0.3 mmol, 32 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | acryloyl chloride | 0.50 mmol, 45 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.35 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.32 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.45 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-8-fluoroisoquinolin-3-yl)-1H-1,2,4-triazol-5 (4H)-one | 40.58 mg, 15.5% | C(C=C)(=O)N1C[C@H](CC1)NC1=NC(=CC2=CC=CC(=C12)F)C1=NNC(N1)=O | C18H17FN6O2
